US06333358B1
To a suspension of 4.34 g of ethyltriphenyl-phosphonium bromide in 20 ml of tetrahydrofuran was added dropwise 6.63 ml of 1.63 M n-butyl lithium/hexane solution under a nitrogen stream, while keeping the temperature of the reaction solution at −15 to −10° C. The temperature of the reaction solution was gradually raised to room temperature, and after stirring at room temperature for 20 minutes, a solution of 1.01 g of N-acetyl-N-(2-formylbenzyl)-2-phenoxyaniline in 10 ml of tetrahydrofuran was added dropwise, followed by further stirring for an hour. After addition of a saturated aqueous ammonium chloride solution, the reaction solution was extracted with ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure to give 859 mg of N-acetyl-N-[2-(propen-1-yl)benzyl]-2-phenoxyaniline as an oil in a mixture of the geometrical isomers at a ratio of about 3:2.

reactant | n-butyl lithium hexane | 1.63 M, 6.63 ml | C(CCC)[Li].CCCCCC
reactant | N-acetyl-N-(2-formylbenzyl)-2-phenoxyaniline | 1.01 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C=O | C22H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | ethyltriphenyl-phosphonium bromide | 4.34 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-acetyl-N-[2-(propen-1-yl)benzyl]-2-phenoxyaniline | 859 mg | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C=CC | C24H23NO2
